US04892975
Synthesis of (4,4'-bis(3-hydroxy-3-methyl-1-butynyl) tetrafluorophenyl) sulfide
To a solution of bis(4,4'-dibromo tetrafluorophenyl) sulfide (4.86 g, 10 mmol) in dry deoxygenated diisopropylamine was added dichlorobis(triphenylphasphine) palladium (700 mg, 1 mmol) and copper (1) acetate (200 mg, 1 mmol). The solution was cooled by means of an ice bath and to the cooled solution was added 2-methyl 3-butyn 2-ol (2.13 g, 25 mmol). The solution was allowed to warm to room temperature over a period of 1 hour and was then heated at reflux for a period of 24 hours. The solution was cooled and filtered to remove the precipitate of diisopropylammonium bromide. The residue was dissolved in methylene chloride, extracted with water, the organic layer was dried (magnesium sulfate), and the solvent removed. The residue was chromatographed on silica gel using diethyl ether/hexane (3:7 v/v) as the eluent. A white crystalline compound was removed from the column which was identified by mass spectrometry as 1,4-bis-(3-hydroxy 3-methyl-1-butynyl)tetrafluorobenzene. Further elution with diethyl ether/hexane (1:1 v/v) then yielded the desired product as pale yellow crystals. The yield was 2.2 g (44.5%), mp 148-150 C. IR (KBr) 3300, 2980, 2220, 1360, 1190, 1150, 975, 940 cm-1. 1H NMR (80 MHz, d6 -acetone) δ2.8(s, 2H), 1.55(s, 12H); Mass Spectrum (E1)(rel. intensity) 494 (1.0), 479 (0.3), 262 (100). Anal. Calcd. or C22H14F8O2S: C, 53.44; H, 2.83. Found: C, 53.87, H, 2.62.

reactant | bis(4,4'-dibromo tetrafluorophenyl) sulfide | 10 mmol, 4.86 g | BrC1(C(C(=C(C(=C1F)F)SC1=C(C(C(C(=C1F)F)(Br)Br)F)F)F)F)Br | C12H2Br4F8S
reactant | 2-methyl 3-butyn 2-ol | 25 mmol, 2.13 g | CC(C)(C#C)O | C5H8O
catalyst | palladium | 1 mmol, 700 mg | [Pd] | Pd
catalyst | copper (1) acetate | 1 mmol, 200 mg | C(C)(=O)[O-].[Cu+]
product | (4,4'-bis(3-hydroxy-3-methyl-1-butynyl) tetrafluorophenyl) sulfide | OC(C#CC1(C(C(=C(C(=C1F)F)SC1=C(C(C(C(=C1F)F)(C#CC(C)(O)C)C#CC(C)(O)C)F)F)F)F)C#CC(C)(O)C)(C)C | C32H30F8O4S
